US07635715B2
Step C: Preparation of Ethyl 7,8-difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
To 10 mL concentrated H2SO4 stirred at room temperature, was added diethyl 2-(2-(2,3-difluorophenyl)-2-methylpropanoyl)malonate (1.53 g, 4.5 mmol). The mixture was stirred at room temperature for 2 hours, M+1=297. The mixture was then poured into 100 g crushed ice and extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine (20 mL), dried over anhydrous Na2SO4, and concentrated in vacuo to give 1.2 g of the title compound as a pale yellow solid. MS (m/z)=297 (M+H)+.

reactant | diethyl 2-(2-(2,3-difluorophenyl)-2-methylpropanoyl)malonate | 4.5 mmol, 1.53 g | FC1=C(C=CC=C1F)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H20F2O5
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
product | Ethyl 7,8-difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 1.2 g | FC1=CC=C2C(=C(C(C(C2=C1F)(C)C)=O)C(=O)OCC)O | C15H14F2O4
